US07074817B2
1-Benzyl-5-phenyl-1H-indole
1-Benzyl-5-phenyl-1H-indole was prepared by coupling 1-benzyl-5-bromo-1H-indole (2.72 g, 9.50 mmol), and phenylboronic acid (1.39 g, 11.4 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.266 g, 0.326 mmol), and potassium carbonate (2.06 g, 14.9 mmol) in dioxane (72 mL) and water (7.2 mL), following the procedure described in Step 1 of Example 11. Purification by flash chromatography (Biotage apparatus) using hexane as an eluant yielded the title compound as a light yellow solid (0.928 g, 35%), mp: 105-106° C. Mass spectrum (+ES, [M+H]+) m/z 284; 1HNMR (500 MHz, DMSO-d6): δ 7.8 (d, 1H, J=0.92 Hz), 7.65 (dd, 2H, J=8.2 Hz and 0.84 Hz), 7.5-7.55 (m, 2H), 7.35-7.45 (m, 3H), 7.2-7.3 (m, 6H), 6.55 (dd, 1H, J=3.1 Hz and 0.61 Hz), and 5.45 ppm (s, 2H).

reactant | 1-benzyl-5-bromo-1H-indole | 9.50 mmol, 2.72 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | phenylboronic acid | 11.4 mmol, 1.39 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dichloromethane | 0.326 mmol, 0.266 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 14.9 mmol, 2.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 72 mL | O1CCOCC1 | C4H8O2
solvent | water | 7.2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-5-phenyl-1H-indole | 0.928 g, 35% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=CC=C1 | C21H17N
